US04472305
Condensation of BocDLeuOH (2.49 g.) and HMetNH2 (1.85 g.) by the mixed anhydride method using isobutyl chloroformate gave BocDLeu-MetNH2 in 47% yield. De-t-butoxycarbonylation of BocDLeu-MetNH2 (1.70 g.) using hydrogen chloride in acetic acid gave HDLeu-MetNH2 in 78% yield. Condensation of BocGlyOSu (1.8 g.) and HDLeu-MetNH2 (1.0 g.) by the activated ester method gave BocGly-DLeu-MetNH2 in 95% yield. De-t-butoxycarbonylation of BocGly-DLeu-MetNH2 (1.35 g.) using hydrogen chloride in acetic acid gave HGly-DLeu-MetNH2 in 55% yield.

reactant | BocGlyOSu | 1.8 g | N(CC(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C11H16N2O6
reactant | HDLeu-MetNH2 | 1.0 g | N[C@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N | C11H23N3O2S
product | BocGly-DLeu-MetNH2 | 95% yield | N(CC(=O)N[C@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C18H34N4O5S
